US07094780B1
(g) 2,3,4-Trifluorobenzoic acid ethyl ester
To a solution of 2,3,4-trifluorobenzoic acid (10.85 g, 61.6 mmol) in dichloromethane (100 mL) is added oxalyl chloride (13.5 mL, 154 mmol) and N,N-dimethylformamide (3 drops). After 45 minutes, the reaction mixture is concentrated under vacuum. The resulting residue is dissolved in dichloromethane (100 mL) and to this solution is added ethanol (18 mL, 310 mmol). After 30 minutes, the reaction mixture is diluted with dichloromethane and washed with saturated NaHCO3, water, and brine. The organic layer is dried over MgSO4, filtered, and the filtrate is concentrated to afford the title compound as an oil (12.23 g). 1H NMR (CDCl3): δ 7.93–7.67 (m, 1H), 7.09–6.96 (m, 1H), 4.39 (q, 2H), 1.40 (t, 3H).

reactant | 2,3,4-trifluorobenzoic acid | 61.6 mmol, 10.85 g | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | oxalyl chloride | 154 mmol, 13.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 310 mmol, 18 mL | C(C)O | C2H6O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 2,3,4-Trifluorobenzoic acid ethyl ester | 12.23 g | C(C)OC(C1=C(C(=C(C=C1)F)F)F)=O | C9H7F3O2
